US06972340B2
(2S)-2-[(5-{[2-(acetylamino)-3-(4-{2-[(benzhydryloxy)carbonyl][tert-butoxy(oxo)acetyl]anilino}-3-ethylphenyl)propanoyl]amino}pentanoyl)amino]-3-(4-tert-butoxyphenyl)propanoic acid
A mixture 5-{[2-(acetylamino)-3-(4-{2-[(benzhydryloxy)carbonyl][tert-butoxy(oxo)acetyl]anilino}-3-ethylphenyl)propanoyl]amino}pentanoic acid (30 mg, 0.04 mmol), H-TYR(TBU)-OTBU HCL(26 mg, 0.08 mmol), 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (16 mg, 0.048 mmol) and diisopropylethylamine (26 μL) in N,N-dimethylformamide (250 μL) was stirred at ambient temperature overnight, concentrated under reduced pressure and the residue purified by reverse-phase HPLC eluting with 5-100% acetonitrile/aqueous 0.1% trifluoroacetic acid to provide the titled compound.

reactant | 5-{[2-(acetylamino)-3-(4-{2-[(benzhydryloxy)carbonyl][tert-butoxy(oxo)acetyl]anilino}-3-ethylphenyl)propanoyl]amino}pentanoic acid | 0.04 mmol, 30 mg | C(C)(=O)NC(C(=O)NCCCCC(=O)O)CC1=CC(=C(C=C1)N(C1=C(C=CC=C1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C(=O)OC(C)(C)C)=O)CC | C44H49N3O9
reactant | H-TYR(TBU)-OTBU HCL | 0.08 mmol, 26 mg | CC(C)(C)OC1=CC=C(C=C1)C[C@@H](C(=O)OC(C)(C)C)N.Cl
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.048 mmol, 16 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 26 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 250 μL | CN(C=O)C | C3H7NO
product | (2S)-2-[(5-{[2-(acetylamino)-3-(4-{2-[(benzhydryloxy)carbonyl][tert-butoxy(oxo)acetyl]anilino}-3-ethylphenyl)propanoyl]amino}pentanoyl)amino]-3-(4-tert-butoxyphenyl)propanoic acid | C(C)(=O)NC(C(=O)NCCCCC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC(C)(C)C)CC1=CC(=C(C=C1)N(C1=C(C=CC=C1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C(=O)OC(C)(C)C)=O)CC | C57H66N4O11
